US06919352B2
To a solution of 4-[5-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-phenyl-2-pyrimidinamine (80 mg, 0.19 mmol) in tetrahydrofuran (5 mL) was added n-butyllithium (0.43 mL of 1.6M solution in hexane, 0.67 mmol) at −78° C. The resulting dark solution was stirred for 10 minutes, then quenched by the addition of ethyl disulfide (0.08 mL, 6.5 mmol). The reaction mixture was allowed to warm to room temperature, then water and ethyl acetate were added. The phases were separated and the ethyl acetate phase was washed with water, dried (magnesium sulfate), filtered and concentrated. The resulting residue was crystallized from acetonitrile to give N{4-[5-chloro-7-(ethylsulfanyl)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-N-phenylamine (20 mg, 22%) as a solid. 1H NMR (CDCl3): δ 8.30 (d, 1H), 8.22 (d, 1H), 7.66 (m, 3H), 7.40 (t, 2H), 7.1-7.24 (m, 4H), 6.75 (d, 1H), 6.52 (d, 1H), 3.20 (q, 2H), 1.54 (t, 3H); 19F-NMR (CDCl3): δ −112.55; MS m/z 476 (M+1).

reactant | 4-[5-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-phenyl-2-pyrimidinamine | 0.19 mmol, 80 mg | ClC1=CC=2N(C=C1)N=C(C2C2=NC(=NC=C2)NC2=CC=CC=C2)C2=CC=C(C=C2)F | C23H15ClFN5
reactant | n-butyllithium | 0.67 mmol, 1.6M, 0.43 mL | C(CCC)[Li]
reactant | ethyl disulfide | 6.5 mmol, 0.08 mL | C(C)SSCC | C4H10S2
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N{4-[5-chloro-7-(ethylsulfanyl)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-N-phenylamine | 20 mg, 22% | ClC1=CC=2N(C(=C1)SCC)N=C(C2C2=NC(=NC=C2)NC2=CC=CC=C2)C2=CC=C(C=C2)F | C25H19ClFN5S
